US06093732
N-(4-Chlorobenzyl)-4-hydroxy-6-(3-hydroxypropyl)-3-quinolinecarboxamide
A mixture of N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide from Example No. 134 (231.0 mg) and Pd/C (10%, 46.2 mg) are dissolved in 40 mL 3:1 CH2Cl2 :MeOH. The reaction mixture is placed under the Parr hydrogenator at 26 psi and monitored with the OAMS for complete reduction of the acetylene. The reaction is complete in 25 min and filtered over celite to remove the palladium. The filtrate is condensed to obtain a solid. The solid is suspended in ether, filtered, and collected to yield 31.8 mg (14%) of the desired product as a white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)C#CCO)C=C1 | C20H15ClN2O3
reactant | MeOH | CO | CH4O
reactant | acetylene | C#C | C2H2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
catalyst | Pd/C | 46.2 mg | [Pd] | Pd
product | N-(4-Chlorobenzyl)-4-hydroxy-6-(3-hydroxypropyl)-3-quinolinecarboxamide | 31.8 mg, 14% | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)CCCO)C=C1 | C20H19ClN2O3
